US06169185A
Benzimidazole-2-acetonitrile was prepared as follows. A mixture of o-phenylenediamine (1 mole) and ethyl cyanoacetate (2 moles) was refluxed for about 30 hours, cooled, diluted with propyl acetate (225 mL), filtered, washed and dried, to provide benzimidazole-2-acetonitrile in a 60-70% yield. Benzimidazole-2-acetonitrile is also available commercially from Aldrich Chemical Company.

reactant | o-phenylenediamine | 1 mole | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | ethyl cyanoacetate | 2 moles | C(#N)CC(=O)OCC | C5H7NO2
solvent | propyl acetate | 225 mL | C(C)(=O)OCCC | C5H10O2
product | benzimidazole-2-acetonitrile | N1=C(NC2=C1C=CC=C2)CC#N | C9H7N3
